US08293768B2
Synthesis 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid (0.15 g, 0.39 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.97 g, 0.51 mmol) and N,N-diisopropylethylamine (0.09 mL, 0.51 mmol) in N,N-dimethylformamide (3 mL) was added 1-hydroxybenzotriazole (0.07 g, 0.51 mmol). The resulting mixture was stirred at ambient temperature for 15 minutes and followed by the addition of 3-(aminomethyl)pyridine (0.05 mL, 0.05 mmol). The reaction mixture was stirred for 17 hours at ambient temperature, diluted with ethyl acetate (30 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography to afford the title compound as a white powder in 59% yield (0.11 g): mp 156-158° C.; 1H NMR (300 MHz, CDCl3) δ 8.58 (s, 1H), 8.51 (s, 1H), 8.27 (s, 1H), 7.68 (d, J=7.8 Hz, 1H), 7.59 (d, J=8.1 Hz, 2H), 7.46 (d, J=8.1 Hz, 2H), 7.31-7.19 (m, 1H), 6.46 (t, J=5.8 Hz, 1H), 5.04 (s, 2H), 4.59 (d, J=5.8 Hz, 2H), 2.63 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.4, 153.4, 150.9, 149.9, 149.3, 149.2, 138.9, 135.7, 131.2, 128.7, 125.8, 123.7, 121.8, 49.1, 41.6, 17.2; MS (ES+) m/z 475.3 (M+1).

reactant | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | 0.39 mmol, 0.15 g | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.51 mmol, 0.97 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.51 mmol, 0.09 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 0.51 mmol, 0.07 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(aminomethyl)pyridine | 0.05 mmol, 0.05 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 59% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C21H17F3N6O2S
